US05494912
PREPARATION OF 1A: [2-[2-methylphenyl]-1,1-difluoroethyl]phosphonic acid, diethyl ester
30 mmol (5.64 g) of diethyl difluoromethane phosphonate dissolved in 30 ml of anhydrous tetrahydrofuran (THF) are slowly added to a stirred solution of (LDA) lithium diisopropylamide (prepared at 0° C. from 31 mmol of n-butyllithium and 30 mmol of diisopropylamine in 30 ml of anhydrous THF) at -78° C. under argon. After 30 minutes, 45 mmol (8.33 g) of 2-bromo-o-xylene are added to the reaction mixture which is stirred at -78° C. for 15 hours and quenched by adding 20 ml of an aqueous saturated solution of ammonium chloride. The crude mixture is evaporated to dryness; the residue is suspended in 50 ml of water and extracted 3 times with 100 ml of ethylacetate. The organic layers are dried over sodium sulfate, filtered and evaporated to give approximately 8 g of crude product which is purified by flash chromotography on silica gel affording 3.6 g of 1A (41% yield).

reactant | diethyl difluoromethane phosphonate | 30 mmol, 5.64 g | FC(P(OCC)(=O)OCC)F | C5H11F2O3P
reactant | lithium diisopropylamide | 31 mmol, 30 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromo-o-xylene | 45 mmol, 8.33 g | BrC1(C(C=CC=C1)C)C | C8H11Br
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [2-[2-methylphenyl]-1,1-difluoroethyl]phosphonic acid, diethyl ester | approximately 8 g | CC1=C(C=CC=C1)CC(F)(F)P(OCC)(OCC)=O | C13H19F2O3P
